US05861417
2.5.2 Synthesis of (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (600 mg, 1.3 mmol) and N,N-diisopropylethylamine (0.5 mL, 2.87 mmol) in dichloromethane (13 mL). Cool in a ice-bath. Add dropwise, methanesulfonyl chloride (0.12 mL, 1.55 mmol). After 15 minutes add more methanesulfonyl chloride (0.03 mL, 0.39 mmol). After 30 minutes, extract with 5% sodium bicarbonate solution and water. Dry the organic layer over MgSO4, filter, and concentrate invacuo to give the title compound: Rf= 0.15 (silica gel, ethyl acetate).

reactant | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | 1.3 mmol, 600 mg | COC1=C(C(=O)N2C[C@@](CC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C21H21Cl2N5O3
reactant | N,N-diisopropylethylamine | 2.87 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 1.55 mmol, 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.39 mmol, 0.03 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2C[C@@](CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C22H23Cl2N5O5S
